US20010018099A1
A mixture of N-[4-(perfluorohexyl)phenyl]-2,4-dinitrobenzenamine (3.6 g, 6.2 mmol), NMP (40 mL), potassium carbonate (3.0 g) and allyl bromide (0.65 mL) was stirred at 75° C. for 4 hr. The mixture was extracted in the normal fashion, and the product recrystallized to give N-allyl-N-[4-(perfluorohexyl)phenyl]-2,4-dinitrobenzenamine (2.9 g).

reactant | N-[4-(perfluorohexyl)phenyl]-2,4-dinitrobenzenamine | 6.2 mmol, 3.6 g | FC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(C1=CC=C(C=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])F | C18H8F13N3O4
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.65 mL | C(C=C)Br | C3H5Br
solvent | NMP | 40 mL | CN1CCCC1=O | C5H9NO
product | N-allyl-N-[4-(perfluorohexyl)phenyl]-2,4-dinitrobenzenamine | 2.9 g | C(C=C)N(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C1=CC=C(C=C1)C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C21H12F13N3O4
